US05434186
Preparation of 3-(2-Carboxyethyl)-4-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-δ-oxobenzenepentanoic Acid
Starting with 0.135 g (0.66 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, and 0.31 g (0.64 mmol) of 4-[(5-bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic acid ethyl ester, the title compound (0.190 g; 62.8% overall yield) was obtained as a white solid, mp 151°-153.5° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 0.66 mmol, 0.135 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 4-[(5-bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic acid ethyl ester | 0.64 mmol, 0.31 g | C(C)OC(CCCC(C1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O)=O | C23H33BrO6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(2-Carboxyethyl)-4-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-δ-oxobenzenepentanoic Acid | 0.190 g, 62.8% | C(=O)(O)CCC=1C=C(C=CC1OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)C(CCCC(=O)O)=O | C31H38O9
